2125-10-23 07:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2125-10-22**] 02:00 PM
 URINE CULTURE - At [**2125-10-22**] 02:00 PM
 MULTI LUMEN - START [**2125-10-22**] 02:00 PM
 BRONCHOSCOPY - At [**2125-10-22**] 02:40 PM
 SPUTUM CULTURE - At [**2125-10-22**] 02:40 PM
 ARTERIAL LINE - STOP [**2125-10-22**] 05:30 PM
 ARTERIAL LINE - START [**2125-10-22**] 06:45 PM
 FEVER - 102.9
F - [**2125-10-22**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-10-22**] 07:30 AM
   Vancomycin - [**2125-10-22**] 08:00 PM
   Levofloxacin - [**2125-10-22**] 10:00 PM
   Bactrim (SMX/TMP) - [**2125-10-23**] 06:02 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-10-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-10-23**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-23**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.4
C (99.4
   HR: 104 (76 - 107) bpm
   BP: 117/62(79) {104/60(76) - 134/78(97)} mmHg
   RR: 35 (15 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 11 (8 - 17)mmHg
   Total In:
                                                                  8,314 mL
                                                                  1,349 mL
   PO:
   TF:
                                                                     80 mL
                                                                    152 mL
   IVF:
                                                                  2,734 mL
                                                                  1,198 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    420 mL
   Urine:
                                                                    750 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,564 mL
                                                                    929 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: 7.37/32/86.[**Numeric Identifier **]/18/-5
   Ve: 15.9 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Well nourished, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous:  but
   improved compared to yesterday)
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.0 g/dL
   379 K/uL
   318 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.4 mEq/L
   16 mg/dL
   100 mEq/L
   132 mEq/L
   26.6 %
   16.6 K/uL
        [image002.jpg]
                            [**2125-10-22**]  05:17 AM
                            [**2125-10-22**]  05:25 AM
                            [**2125-10-22**]  10:36 AM
                            [**2125-10-22**]  12:08 PM
                            [**2125-10-22**]  07:00 PM
                            [**2125-10-23**]  04:35 AM
                            [**2125-10-23**]  04:41 AM
   WBC
   15.7
   16.6
   Hct
   27.1
   26.6
   Plt
   348
   379
   Cr
   0.5
   0.8
   TropT
   0.04
   TCO2
   22
   22
   22
   20
   19
   Glucose
   203
   318
   Other labs: CK / CKMB / Troponin-T:85//0.04, ALT / AST:[**11-7**], Alk Phos
   / T Bili:85/0.1, Lactic Acid:3.7 mmol/L, Albumin:2.8 g/dL, LDH:744
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   BAL: PCP neg, gram stain and clx neg
   CXR: [**2125-10-23**] marked improvement in the airspace disease process from
   previous
   Assessment and Plan
   41 yo with hx of asthma (by report) who was recently treated for PNA
   with abx and returned to the ED several days later with hypoxemic
   respiratory failure  which based on BAL eosinophilia and rpaid
   radiographic improvement is compatible at least in part with acute
   eosinophilic  PNA with possible superinfection.
    Hypoxemic resp failure: Her presentation is concerning for an
   infectious  source. we do not know her HIV status (although her CD4
   count is 900). Her PCP on BAL was negative, though she did have a
   markedly increased LDH. In addition, we will cover with Vanco, CTX
   ,Azithro.  Notably, her plateau pressures are not consistent with ARDS,
   there is no evidence of bleeding which would go for DAH, the cell count
   now has a  neutrophil predominance, but initially she had 12%
   eosinophilia which has subsequently decreased to 1% on repeat. BAL has
   been neg on gram stain and clx as have been blood clx, a viral process
   is possible (the Ag was cancelled) and urine legionella was neg. This
   may be consistent with acute eosinophilic PNA process
   - Empiric coverage as above
   - F/u viral
   - Cont PS ventilation
   - Chest CT to further evaluate
   Lactic acidosis/Increased renal failure:  lactate 3.7, no clear
   etiology, Creatinine has doubled over the past 24. ? bactrim toxicity,
   renal toxicity.  Stopped bactrim, Will check vanco level and Urine
   lytes and osm
   ID: as above and will also follow up blood cx
    Addendum- [**Month (only) 11**] consider d/c Abx gradually and decreasing steroids to
   equivalent dose 1mg/kg/day of prednisone.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-22**] 04:00 PM 20 mL/hour
   Glycemic Control:  Insuliun infusion
   Lines:
   18 Gauge - [**2125-10-22**] 04:03 AM
   Multi Lumen - [**2125-10-22**] 02:00 PM
   Arterial Line - [**2125-10-22**] 06:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2125-10-23 07:42:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2125-10-22**] 02:00 PM
 URINE CULTURE - At [**2125-10-22**] 02:00 PM
 MULTI LUMEN - START [**2125-10-22**] 02:00 PM
 BRONCHOSCOPY - At [**2125-10-22**] 02:40 PM
 SPUTUM CULTURE - At [**2125-10-22**] 02:40 PM
 ARTERIAL LINE - STOP [**2125-10-22**] 05:30 PM
 ARTERIAL LINE - START [**2125-10-22**] 06:45 PM
 FEVER - 102.9
F - [**2125-10-22**] 12:00 PM
   - Switched to pressure controlled ventillation with improvement of
   oxygenation
   - Right IJ placed
   - Bronch showed more purluent secretions
   - PCP negative
   [**Name Initial (PRE) **] glucan/galactomannan pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-10-22**] 07:30 AM
   Vancomycin - [**2125-10-22**] 08:00 PM
   Levofloxacin - [**2125-10-22**] 10:00 PM
   Bactrim (SMX/TMP) - [**2125-10-23**] 06:02 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-10-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-10-23**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-23**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.4
C (99.4
   HR: 104 (76 - 107) bpm
   BP: 117/62(79) {104/60(76) - 134/78(97)} mmHg
   RR: 35 (15 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 11 (8 - 17)mmHg
   Total In:
                                                                  8,314 mL
                                                                  1,349 mL
   PO:
   TF:
                                                                     80 mL
                                                                    152 mL
   IVF:
                                                                  2,734 mL
                                                                  1,198 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    420 mL
   Urine:
                                                                    750 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,564 mL
                                                                    929 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: 7.37/32/86.[**Numeric Identifier **]/18/-5
   Ve: 15.9 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   379 K/uL
   9.0 g/dL
   318 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.4 mEq/L
   16 mg/dL
   100 mEq/L
   132 mEq/L
   26.6 %
   16.6 K/uL
        [image002.jpg]
                            [**2125-10-22**]  05:17 AM
                            [**2125-10-22**]  05:25 AM
                            [**2125-10-22**]  10:36 AM
                            [**2125-10-22**]  12:08 PM
                            [**2125-10-22**]  07:00 PM
                            [**2125-10-23**]  04:35 AM
                            [**2125-10-23**]  04:41 AM
   WBC
   15.7
   16.6
   Hct
   27.1
   26.6
   Plt
   348
   379
   Cr
   0.5
   0.8
   TropT
   0.04
   TCO2
   22
   22
   22
   20
   19
   Glucose
   203
   318
   Other labs: CK / CKMB / Troponin-T:85//0.04, ALT / AST:[**11-7**], Alk Phos
   / T Bili:85/0.1, Lactic Acid:3.7 mmol/L, Albumin:2.8 g/dL, LDH:744
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   41 F with history of asthma (no controller meds) admit to MICU with
   respiratory distress and failure requiring intubation with severe
   pneumonia on CXR and high O2 requirements on vent.
   #Community acquired pneumonia.  Initiated treatment for pneumonia 2
   days PTA with azithromycin but did not improve.  Patient with
   widespread pulmonary infiltrates, leukocytosis, mildly elevated temps.
   Significant O2 requirement as below.  Patient with history of asthma,
   no on steroids or other known immunosuppressants; no known risk factors
   for unusual organisms (fungals: histo/blasto, coccidio; PCP [**Name Initial (PRE) **] [**Name10 (NameIs) 1981**] have
   elevated LDH) though little is known about her history and risk factors
   for these diseases.  Also consider usual CAP organisms, staph,
   legionella.  Noninfectious pneumonia also a possibility (AEP, AIP),
   alveolar hemorrhage less likely given appearance of BAL fluid.
   - BAL for cell count pending.
   - Also checking PCP stain, fungal cultures, AFB, rapid respiratory
   viral, legionella, cytology of BAL.
   - urine legionella Ag.
   - Cover for severe CAP coverage (levoflox + cephalosporin).  Will
   continue vanc in addition empirically until data from BAL returns;
   Bactrim for PCP treatment plus steroids (pred 40 [**Hospital1 **])
   - Monitor hemodynamics, no evidence of hypotension/shock thus far.  If
   so, definitely needs CVL.
   - Collateral info from family.
   .
   # Respiratory failure.  Requiring intubation.  Now on ARDSnet volumes,
   currently at FiO2 0.7-1.0 and PEEP 8.
   - ARDSnet ventilation.  Increase PEEP (start with 12) and try to
   decrease FiO2.
   - versed/fent
   - CXR daily
   - VAP precautions.
   - Daily wake up.
   .
   # Depression.  continue home prozac dose.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-22**] 04:00 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2125-10-22**] 04:03 AM
   Multi Lumen - [**2125-10-22**] 02:00 PM
   Arterial Line - [**2125-10-22**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   Chief Complaint: respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2125-10-22**] 02:00 PM
 URINE CULTURE - At [**2125-10-22**] 02:00 PM
 MULTI LUMEN - START [**2125-10-22**] 02:00 PM
 BRONCHOSCOPY - At [**2125-10-22**] 02:40 PM
 SPUTUM CULTURE - At [**2125-10-22**] 02:40 PM
 ARTERIAL LINE - STOP [**2125-10-22**] 05:30 PM
 ARTERIAL LINE - START [**2125-10-22**] 06:45 PM
 FEVER - 102.9
F - [**2125-10-22**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-10-22**] 07:30 AM
   Vancomycin - [**2125-10-22**] 08:00 PM
   Levofloxacin - [**2125-10-22**] 10:00 PM
   Bactrim (SMX/TMP) - [**2125-10-23**] 06:02 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-10-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-10-23**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-23**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.4
C (99.4
   HR: 104 (76 - 107) bpm
   BP: 117/62(79) {104/60(76) - 134/78(97)} mmHg
   RR: 35 (15 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 11 (8 - 17)mmHg
   Total In:
                                                                  8,314 mL
                                                                  1,352 mL
   PO:
   TF:
                                                                     80 mL
                                                                    153 mL
   IVF:
                                                                  2,734 mL
                                                                  1,199 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    420 mL
   Urine:
                                                                    750 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,564 mL
                                                                    932 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: 7.37/32/86.[**Numeric Identifier **]/18/-5
   Ve: 15.9 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   379 K/uL
   9.0 g/dL
   318 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.4 mEq/L
   16 mg/dL
   100 mEq/L
   132 mEq/L
   26.6 %
   16.6 K/uL
        [image002.jpg]
                            [**2125-10-22**]  05:17 AM
                            [**2125-10-22**]  05:25 AM
                            [**2125-10-22**]  10:36 AM
                            [**2125-10-22**]  12:08 PM
                            [**2125-10-22**]  07:00 PM
                            [**2125-10-23**]  04:35 AM
                            [**2125-10-23**]  04:41 AM
   WBC
   15.7
   16.6
   Hct
   27.1
   26.6
   Plt
   348
   379
   Cr
   0.5
   0.8
   TropT
   0.04
   TCO2
   22
   22
   22
   20
   19
   Glucose
   203
   318
   Other labs: CK / CKMB / Troponin-T:85//0.04, ALT / AST:[**11-7**], Alk Phos
   / T Bili:85/0.1, Lactic Acid:3.7 mmol/L, Albumin:2.8 g/dL, LDH:744
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 .H/O ASTHMA
 .H/O DEPRESSION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-22**] 04:00 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2125-10-22**] 04:03 AM
   Multi Lumen - [**2125-10-22**] 02:00 PM
   Arterial Line - [**2125-10-22**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2125-10-24 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2125-10-23**] 06:02 AM
   Ceftriaxone - [**2125-10-23**] 08:41 AM
   Vancomycin - [**2125-10-23**] 08:07 PM
   Levofloxacin - [**2125-10-23**] 10:40 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-23**] 08:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-24**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 81 (81 - 107) bpm
   BP: 92/66(242) {92/63(81) - 134/80(294)} mmHg
   RR: 17 (10 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 21 (8 - 36)mmHg
   Total In:
                                                                  4,096 mL
                                                                    539 mL
   PO:
   TF:
                                                                    509 mL
                                                                    225 mL
   IVF:
                                                                  3,397 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  1,930 mL
                                                                    505 mL
   Urine:
                                                                  1,910 mL
                                                                    505 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  2,166 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,121 (577 - 1,121) mL
   PS : 5 cmH2O
   RR (Set): 30
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.36/44/85.[**Numeric Identifier 433**]/23/0
   Ve: 7.8 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   436 K/uL
   194 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.7 mEq/L
   21 mg/dL
   103 mEq/L
   136 mEq/L
   26.7 %
   25.3 K/uL
        [image002.jpg]
                            [**2125-10-22**]  12:08 PM
                            [**2125-10-22**]  07:00 PM
                            [**2125-10-23**]  04:35 AM
                            [**2125-10-23**]  04:41 AM
                            [**2125-10-23**]  09:01 AM
                            [**2125-10-23**]  01:23 PM
                            [**2125-10-23**]  05:34 PM
                            [**2125-10-23**]  05:40 PM
                            [**2125-10-24**]  05:50 AM
                            [**2125-10-24**]  06:02 AM
   WBC
   16.6
   20.6
   25.3
   Hct
   26.6
   26.8
   26.7
   Plt
   379
   406
   436
   Cr
   0.8
   0.7
   0.6
   TCO2
   22
   20
   19
   21
   23
   24
   26
   Glucose
   [**Telephone/Fax (3) 2081**]
   Other labs: PT / PTT / INR:15.5/23.9/1.4, CK / CKMB /
   Troponin-T:85//0.04, ALT / AST:14/25, Alk Phos / T Bili:84/0.1, Amylase
   / Lipase:/9, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:795 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   41 yo with hx of asthma (by report) who was recently treated for PNA
   with abx and returned to the ED several days later with hypoxemic
   respiratory failure  which based on BAL eosinophilia and rpaid
   radiographic improvement is compatible at least in part with acute
   eosinophilic  PNA with possible superinfection.
    Hypoxemic resp failure: Her presentation is concerning for an
   infectious  source. we do not know her HIV status (although her CD4
   count is 900). Notably, her plateau pressures are not consistent with
   ARDS, there is no evidence of bleeding which would go for DAH, the cell
   count now has a  neutrophil predominance, but initially she had 12%
   eosinophilia which has subsequently decreased to 1% on repeat. BAL has
   been neg on gram stain and clx as have been blood clx, a viral process
   is possible (the Ag was cancelled) and urine legionella was neg. This
   may be consistent with acute eosinophilic PNA process, there does not
   appear to be an infectious component (BAL neg and PCP [**Name Initial (PRE) **]) and her WBC
   conts to rise in the setting of broad spectrum coverage. The Chest CT
   from [**10-24**] shows a dramatic GGO and consolidation pattern in the upper
   lobes predominantly which could be consistent with AEP,PAP and possibly
   some volume overload (increased BNP on admission)
   - Empiric coverage as above
   - F/u viral studies: Ag pending
   - Cont PS ventilation
   - increase methylpred to 125 mg IV q 6h
   - Net neg fluid balance
   - Check IgE (add on to admit)
    Lactic acidosis/Increased renal failure:  improvement in renal
   function and lactate. Will cont to trend.
    ETOH withdrawl: on midazolam, may need CIWA and haldol in the
   extubation setting.
   ID: as above and will also follow up blood cx
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2125-10-23**] 09:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2125-10-22**] 04:03 AM
   Multi Lumen - [**2125-10-22**] 02:00 PM
   Arterial Line - [**2125-10-22**] 06:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB, mouth care, daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2125-10-24 08:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Vanco, levo, ctx continued, bactrim discontinued
   CT chest: Diffuse ground glass opacities, worst in the upper lobes with
   possible crazy paving appearance.  Dependent nodular opacities at the
   bases.  Differential is broad and includes infectious and inflammatory
   etiologies such as pneumocystis pneumonia, pulmonary alveolar
   proteinosis, and noncardiac edema.  Other less likely etiologies
   include bacterial pneumonia, chronic eosinophilic pneumonia,
   hypersensitivity pneumonitis and pulmonary hemorrhage.  Extensive
   pancreatic calcifications.
   Family reported concern for ethanol withdrawal - ct showing chronic
   pancreatitis.
   NGT placement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2125-10-23**] 06:02 AM
   Ceftriaxone - [**2125-10-23**] 08:41 AM
   Vancomycin - [**2125-10-23**] 08:07 PM
   Levofloxacin - [**2125-10-23**] 10:40 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-23**] 08:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-24**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 81 (81 - 107) bpm
   BP: 92/66(242) {92/63(81) - 134/80(294)} mmHg
   RR: 17 (10 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   FINGERSTICK GLUCOSE: 194-280 (since start of RISS)
    CVP: 21 (8 - 36)mmHg
             Total In:
                                                                  4,096 mL
                                                                    562 mL
   PO:
             TF:
                                                                    509 mL
                                                                    236 mL
   IVF:
                                                                  3,397 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  1,930 mL
                                                                    505 mL
   Urine:
                                                                  1,910 mL
                                                                    505 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  2,166 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,121 (577 - 1,121) mL
   PS : 5 cmH2O
   RR (Set): 30
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.36/44/85.[**Numeric Identifier 433**]/23/0
   Ve: 7.8 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General: Intubated/sedated.  Somewhat responsive to voice and commands.
   HEENT: ETT in place.
   Chest: Continues to be very coarse and rhonchorous, though good
   volumes.  No wheeze.
   Heart: RRR, distant behind breath sounds
   Abdomen: soft, NT/ND, no mass.
   Extrem: warm, no sacral or extremity edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   436 K/uL
   8.9 g/dL
   194 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.7 mEq/L
   21 mg/dL
   103 mEq/L
   136 mEq/L
   26.7 %
   25.3 K/uL
        [image002.jpg]
                            [**2125-10-22**]  12:08 PM
                            [**2125-10-22**]  07:00 PM
                            [**2125-10-23**]  04:35 AM
                            [**2125-10-23**]  04:41 AM
                            [**2125-10-23**]  09:01 AM
                            [**2125-10-23**]  01:23 PM
                            [**2125-10-23**]  05:34 PM
                            [**2125-10-23**]  05:40 PM
                            [**2125-10-24**]  05:50 AM
                            [**2125-10-24**]  06:02 AM
   WBC
   16.6
   20.6
   25.3
   Hct
   26.6
   26.8
   26.7
   Plt
   379
   406
   436
   Cr
   0.8
   0.7
   0.6
   TCO2
   22
   20
   19
   21
   23
   24
   26
   Glucose
   [**Telephone/Fax (3) 2081**]
   Other labs: PT / PTT / INR:15.5/23.9/1.4, CK / CKMB /
   Troponin-T:85//0.04, ALT / AST:14/25, Alk Phos / T Bili:84/0.1, Amylase
   / Lipase:/9, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:795 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   MICRO: viral culture [**10-22**]: pending; [**12-22**] rapid pending.
   PCP negative [**Name Initial (PRE) **] 2
   Sputum culture prelim neg
   Assessment and Plan
   41 F with history of asthma (no controller meds) admit to MICU with
   respiratory distress and failure requiring intubation with severe
   pneumonia on CXR and high O2 requirements on vent; now improving
   significantly.
   # Acute pneumonia.  Initiated treatment for pneumonia 2 days PTA with
   azithromycin but did not improve.  widespread pulmonary infiltrates,
   leukocytosis, mildly elevated temps, significant O2 requirement and
   vent support.  Now clinically improving with requirement for less vent
   and oxygenation support and dramatic improvement in chest Xray.
   Consistent with noninfectious cause, also high eosinophil presence on
   BAL fluid suggest ?AEP.  No peripheral eosinophilia.  Does have upper
   lobe predominance on CT.  PAP also in differential prelim
   radiographically (also see high LD with this, though nonspecific), but
   not consistent with course or ongoing secretions.
   - Continue steroids (initially on for PCP treatment with bactrim, will
   continue for presumptive diagnosis of AEP).  Increase today to
   solumedrol 125 Q6 hours.
   - check IgE (can be suggestive of AEP), ANCA (? vasculitis)
   - follow final BAL cultures and rapid viral studies.
   - For now will continue coverage for severe CAP coverage (levoflox +
   cephalosporin and vancomycin).
   .
   # Respiratory failure.  Requiring intubation for pneumonia/pneumonitis
   as above.  Initially requiring 80-100% FiO2 and PEEP [**7-24**]; now
   significantly improved and comfortable of [**4-21**] with 0.40 fiO2.
   - Try decrease PEEP to 5 this AM, hope for extubation likely tomorrow
   AM.
   - versed/fent with daily wake up
   - CXR daily
   - VAP precautions.
   - Diurese today to optimize pulmonary function
 20 IV lasix now and
   goal negative 1+ liter.
   # Renal function.  Creatinine within normal limits but significant bump
   yesterday, now improved.  Stopped bactrim.
   .
   # Depression.  continue home prozac dose
   # Concern for EtOH abuse.  Per family.  Chronic pancreatitis per
   imaging.  Last drink thought to be [**10-20**] or [**10-21**].
   - Monitor for withdrawal once extubated and off versed.
   # Renal cyst.  Will need followup renal ultrasound to evaluate.
   ICU care
   NUtren pulmonary
   Insulin sliding scale
   H2 blocker
   HSQ
   CVL and Aline
   Full code
   Dispo: ICU

2125-10-25 07:15:00 Physician Resident Progress Note
Chief Complaint: pneumonia
   24 Hour Events:
   - Weaned to [**4-16**] and tolerated well.  Trying to wean sedation for plan
   for extubation today.
   - Rapid viral screen negative.
   - Radiology recommends renal ultrasound for complex cyst seen
   incidentally.
   - Lasix 20 IV x 2; even at midnight but -1.7 L by 5 am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2125-10-23**] 06:02 AM
   Ceftriaxone - [**2125-10-24**] 08:00 AM
   Vancomycin - [**2125-10-24**] 08:05 PM
   Levofloxacin - [**2125-10-24**] 10:05 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-10-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-24**] 04:00 PM
   Furosemide (Lasix) - [**2125-10-24**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-25**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 75 (75 - 104) bpm
   BP: 129/78(100) {81/58(73) - 138/96(103)} mmHg
   RR: 11 (7 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 10 (4 - 23)mmHg
   Total In:
                                                                  2,294 mL
                                                                    144 mL
   PO:
   TF:
                                                                    793 mL
                                                                      4 mL
   IVF:
                                                                  1,371 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                  1,940 mL
   Urine:
                                                                  2,050 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    244 mL
                                                                 -1,796 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 796 (53 - 1,050) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.44/48/99.[**Numeric Identifier 8**]/32/6
   Ve: 7.4 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous but improved: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed.  Not following commands this morning.
   Labs / Radiology
   484 K/uL
   9.3 g/dL
   111 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.4 mEq/L
   37 mg/dL
   102 mEq/L
   141 mEq/L
   28.6 %
   17.4 K/uL
        [image002.jpg]
                            [**2125-10-23**]  09:01 AM
                            [**2125-10-23**]  01:23 PM
                            [**2125-10-23**]  05:34 PM
                            [**2125-10-23**]  05:40 PM
                            [**2125-10-24**]  05:50 AM
                            [**2125-10-24**]  06:02 AM
                            [**2125-10-24**]  03:03 PM
                            [**2125-10-24**]  08:13 PM
                            [**2125-10-25**]  04:44 AM
                            [**2125-10-25**]  04:54 AM
   WBC
   20.6
   25.3
   17.4
   Hct
   26.8
   26.7
   28.6
   Plt
   [**Telephone/Fax (3) 2103**]
   Cr
   0.7
   0.6
   0.7
   0.7
   TCO2
   21
   23
   24
   26
   28
   34
   Glucose
   [**Telephone/Fax (3) 2104**]11
   Other labs: PT / PTT / INR:15.5/23.9/1.4, CK / CKMB /
   Troponin-T:85//0.04, ALT / AST:20/25, Alk Phos / T Bili:83/0.2, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:622 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   41 F with history of asthma (no controller meds) admit to MICU with
   respiratory distress and failure requiring intubation with severe
   pneumonia on CXR and high O2 requirements on vent; now improving
   significantly.
   # Acute pneumoniaNow clinically improving with requirement for less
   vent and oxygenation support and dramatic improvement in chest Xray.
   Consistent with noninfectious cause, also high eosinophil presence on
   BAL fluid suggest ?AEP.  No peripheral eosinophilia.  Does have upper
   lobe predominance on CT.
   - Continue solumedrol 125 Q6 hours today.
   - checking IgE (can be suggestive of AEP), ANCA (? vasculitis)
   - follow final BAL cultures.
   - continue coverage with levoflox + cephalosporin; d/c vancomycin.
   .
   # Respiratory failure.  Requiring intubation for pneumonia/pneumonitis
   as above.  Initially requiring 80-100% FiO2 and PEEP [**7-24**]; now
   significantly improved and comfortable of [**4-16**] with 0.40 fiO2.  Diuresed
   overnight.  Weaning sedation to hopefully allow extubation today.
   - Extubate today if can wean off sedation and secretions manageable.
   SBT.  Give haldol 5 mg x 1 to decrease agitation, may need some
   continued benzos given high EtOH use.
   - Negative 1.8 liters overnight
 should not need further diuresis.
   .
   # Depression.  continue home prozac dose
   # Concern for EtOH abuse.  Per family.  Chronic pancreatitis per
   imaging.  Last drink thought to be [**10-20**] or [**10-21**].
   - Monitor for withdrawal once extubated and off versed.  Benzos prn.
   # Renal cyst.  Will need followup renal ultrasound to evaluate.
   ICU Care
   Nutrition:
   Comments: NPO for extubation; insulin gtt off and starting scale
   Glycemic Control:  Regular insulin sliding scale (can change back to
   gtt if needed since will be on high dose steroids).
   Lines:
   18 Gauge - [**2125-10-22**] 04:03 AM
   Multi Lumen - [**2125-10-22**] 02:00 PM
   Arterial Line - [**2125-10-22**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2125-10-25 08:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > did well on PS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2125-10-23**] 06:02 AM
   Ceftriaxone - [**2125-10-24**] 08:00 AM
   Vancomycin - [**2125-10-24**] 08:05 PM
   Levofloxacin - [**2125-10-24**] 10:05 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-10-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-24**] 04:00 PM
   Furosemide (Lasix) - [**2125-10-24**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-25**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 75 (75 - 104) bpm
   BP: 129/78(100) {81/58(73) - 138/81(100)} mmHg
   RR: 11 (7 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 10 (4 - 23)mmHg
   Total In:
                                                                  2,294 mL
                                                                    156 mL
   PO:
   TF:
                                                                    793 mL
                                                                      4 mL
   IVF:
                                                                  1,371 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                  1,940 mL
   Urine:
                                                                  2,050 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    244 mL
                                                                 -1,784 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 910 (53 - 1,050) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.44/48/99.[**Numeric Identifier 8**]/32/6
   Ve: 6.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : diffusely, Rhonchorous
   but less then yesterday: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic:, Responds to: Verbal stimuli, not following commande
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   484 K/uL
   111 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.4 mEq/L
   37 mg/dL
   102 mEq/L
   141 mEq/L
   28.6 %
   17.4 K/uL
        [image002.jpg]
                            [**2125-10-23**]  09:01 AM
                            [**2125-10-23**]  01:23 PM
                            [**2125-10-23**]  05:34 PM
                            [**2125-10-23**]  05:40 PM
                            [**2125-10-24**]  05:50 AM
                            [**2125-10-24**]  06:02 AM
                            [**2125-10-24**]  03:03 PM
                            [**2125-10-24**]  08:13 PM
                            [**2125-10-25**]  04:44 AM
                            [**2125-10-25**]  04:54 AM
   WBC
   20.6
   25.3
   17.4
   Hct
   26.8
   26.7
   28.6
   Plt
   [**Telephone/Fax (3) 2103**]
   Cr
   0.7
   0.6
   0.7
   0.7
   TCO2
   21
   23
   24
   26
   28
   34
   Glucose
   [**Telephone/Fax (3) 2104**]11
   Other labs: PT / PTT / INR:15.5/23.9/1.4, CK / CKMB /
   Troponin-T:85//0.04, ALT / AST:20/25, Alk Phos / T Bili:83/0.2, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:622 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
[**10-23**] Rapid Respiratory Viral Antigen Test (Final [**2125-10-24**]):
      Respiratory viral antigens not detected.
      SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B AND
      RSV.
   CXR [**10-25**]:  poor quality film, ? increasing effusion.
   Assessment and Plan
   41 yo with hx of asthma (by report) who was recently treated for PNA
   with abx and returned to the ED several days later with hypoxemic
   respiratory failure  which based on BAL eosinophilia and rpaid
   radiographic improvement is compatible at least in part with acute
   eosinophilic  PNA with possible superinfection.
   > Hypoxemic resp failure: Her presentation is concerning for an
   infectious source. we do not know her HIV status (although her CD4
   count is 900). Notably, her plateau pressures are not consistent with
   ARDS, there is no evidence of bleeding which would go for DAH, the cell
   count now has a  neutrophil predominance, but initially she had 12%
   eosinophilia which has subsequently decreased to 1% on repeat. BAL has
   been neg on gram stain and clx as have been blood clx, a viral process
   is possible (the Ag was cancelled) and urine legionella was neg. This
   may be consistent with acute eosinophilic PNA process, there does not
   appear to be an infectious component (BAL neg and PCP neg, viral
   studies neg) and her WBC conts to rise in the setting of broad spectrum
   coverage. The Chest CT from [**10-24**] shows a dramatic GGO and
   consolidation pattern in the upper lobes predominantly which could be
   consistent with AEP,PAP and possibly some volume overload (increased
   BNP on admission), over the last 24 hrs her WHC has improved and she
   has been Afebrile on high dose steroids (125 mg solumedrol q 6h since
   [**10-24**]).  Hopefuil
   -  Will stop Vancomycin today, cont ceftriax/levaquin.
   - Cont PS ventilation: SBT today.
   - increase methylpred to 125 mg IV q 6h  [**10-24**] and will decrease on
   [**10-26**]
   - Let her set I/O
   - Check IgE (add on to admit): pending.
   >ETOH withdrawl / altered: on midazolam, may need CIWA and haldol in
   the extubation setting as her mental status is likely to be worsened in
   the setting of high dose steroids.
   - Will trial Haldol prior to extubation. Obtain ECG to check Qt
   Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2125-10-22**] 04:03 AM
   Multi Lumen - [**2125-10-22**] 02:00 PM
   Arterial Line - [**2125-10-22**] 06:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2125-10-26 07:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2125-10-25**] 04:45 PM
   > Tolerated SBT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-25**] 08:00 AM
   Ceftriaxone - [**2125-10-25**] 08:00 AM
   Levofloxacin - [**2125-10-25**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-10-25**] 11:21 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-25**] 04:00 PM
   Famotidine (Pepcid) - [**2125-10-25**] 08:43 PM
   Furosemide (Lasix) - [**2125-10-26**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-26**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 71 (70 - 105) bpm
   BP: 127/61(77) {123/42(63) - 153/98(105)} mmHg
   RR: 9 (8 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 10 (10 - 19)mmHg
   Total In:
                                                                    905 mL
                                                                     94 mL
   PO:
   TF:
                                                                      4 mL
   IVF:
                                                                    761 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  3,310 mL
                                                                  1,060 mL
   Urine:
                                                                  3,310 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,405 mL
                                                                   -966 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 720 (534 - 802) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 12 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, diminished
   secretion
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: bases,
   Rhonchorous but markedly improved from [**10-25**]: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: painful stim, Movement: Non
   -purposeful, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   573 K/uL
   183 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.6 mEq/L
   33 mg/dL
   105 mEq/L
   144 mEq/L
   31.3 %
   15.7 K/uL
        [image002.jpg]
                            [**2125-10-23**]  05:40 PM
                            [**2125-10-24**]  05:50 AM
                            [**2125-10-24**]  06:02 AM
                            [**2125-10-24**]  03:03 PM
                            [**2125-10-24**]  08:13 PM
                            [**2125-10-25**]  04:44 AM
                            [**2125-10-25**]  04:54 AM
                            [**2125-10-25**]  03:29 PM
                            [**2125-10-25**]  06:00 PM
                            [**2125-10-26**]  03:52 AM
   WBC
   25.3
   17.4
   15.7
   Hct
   26.7
   28.6
   31.3
   Plt
   436
   484
   573
   Cr
   0.6
   0.7
   0.7
   0.6
   0.6
   TCO2
   24
   26
   28
   34
   Glucose
   194
   136
   111
   172
   187
   183
   Other labs: PT / PTT / INR:15.7/24.1/1.4, CK / CKMB /
   Troponin-T:85//0.04, ALT / AST:18/15, Alk Phos / T Bili:80/0.2, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:514 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   All Clx data: NGTD
   Imaging: CXR [**10-26**]: improving pattern
   Assessment and Plan
   41 yo with hx of asthma (by report) who was recently treated for PNA
   with abx and returned to the ED several days later with hypoxemic
   respiratory failure  which based on BAL eosinophilia and rpaid
   radiographic improvement is compatible at least in part with acute
   eosinophilic  PNA with possible superinfection.
   > Hypoxemic resp failure: Her presentation is concerning for an
   infectious source. we do not know her HIV status (although her CD4
   count is 900). Notably, her plateau pressures are not consistent with
   ARDS, there is no evidence of bleeding which would go for DAH, the cell
   count now has a  neutrophil predominance, but initially she had 12%
   eosinophilia which has subsequently decreased to 1% on repeat. BAL has
   been neg on gram stain and clx as have been blood clx, a viral process
   is possible (the Ag was cancelled) and urine legionella was neg. This
   may be consistent with acute eosinophilic PNA process, there does not
   appear to be an infectious component (BAL neg and PCP neg, viral
   studies neg) and her WBC conts to rise in the setting of broad spectrum
   coverage. The Chest CT from [**10-24**] shows a dramatic GGO and
   consolidation pattern in the upper lobes predominantly which could be
   consistent with AEP,PAP and possibly some volume overload (increased
   BNP on admission), over the last 24 hrs her WHC has improved and she
   has been Afebrile on high dose steroids (125 mg solumedrol q 6h since
   [**10-24**]) and we are going to wean steroids further [**10-26**] as well as abx
   regiment
   -  D/c ceftriaxone today, cont levaquin (and plan stop tomorrow)
   - Cont PS ventilation: SBT today.
   - Decrease to methylprednisolone 60 mg IV q 6h [**10-26**]
   - Let her set I/O
   - Check IgE (add on to admit): pending.
   - Goal net negative today (500 cc) she seems to be concentrated by labs
   - Hopeful for extubation today.
   >ETOH withdrawl / altered mental: she is less responsive this morning
   then previously although there is no focality to her exam. We will hold
   all sedating medications, would check head CT to r/o any interval
   change, there is no clear metabolic precipitant and we can check a ABG
   to rule out CO2 retention. Sub-clinincal status is also on the
   differential in the setting of her EtOH withdrawl and we can also check
   B12, TSH, RPR.
   - Will trial Haldol prior to extubation. Obtain ECG to check Qt
   - Hopeful for improved for mental status
    Coagulopathy: elevated INR, probably related in some part to cirrhosis
   and nutritional deficiency. We will trial three days of Vitamin K.
   Other issues per ICU resident note
   Patient on minimal vent requirements / good cough and minimal
   secretions. Although somnolent and not following commands we will
   proceed with extubation.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2125-10-22**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2125-10-26 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2125-10-25**] 04:45 PM
   - lost A. line, not replaced
   - started on TID prn haldol with good effect, fentanyl stopped, remains
   on versed
   - tolerated SBT well, but had ongoing signicant secretions requiring
   frequent suctioning, so was not extubated.  Also, not following
   commands.
   - received one dose of lasix IV 20 with good effect
   - RSBI of 21 this morning, but still not following commands, although
   secretions are improving (q1 hour)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-25**] 08:00 AM
   Ceftriaxone - [**2125-10-25**] 08:00 AM
   Levofloxacin - [**2125-10-25**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-10-25**] 11:21 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-25**] 04:00 PM
   Famotidine (Pepcid) - [**2125-10-25**] 08:43 PM
   Furosemide (Lasix) - [**2125-10-26**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-26**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 71 (70 - 105) bpm
   BP: 127/61(77) {123/42(63) - 153/98(105)} mmHg
   RR: 9 (8 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 10 (10 - 19)mmHg
   Total In:
                                                                    905 mL
                                                                     98 mL
   PO:
   TF:
                                                                      4 mL
   IVF:
                                                                    761 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  3,310 mL
                                                                  1,060 mL
   Urine:
                                                                  3,310 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,405 mL
                                                                   -962 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 720 (534 - 802) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 12 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   573 K/uL
   10.5 g/dL
   183 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.6 mEq/L
   33 mg/dL
   105 mEq/L
   144 mEq/L
   31.3 %
   15.7 K/uL
        [image002.jpg]
                            [**2125-10-23**]  05:40 PM
                            [**2125-10-24**]  05:50 AM
                            [**2125-10-24**]  06:02 AM
                            [**2125-10-24**]  03:03 PM
                            [**2125-10-24**]  08:13 PM
                            [**2125-10-25**]  04:44 AM
                            [**2125-10-25**]  04:54 AM
                            [**2125-10-25**]  03:29 PM
                            [**2125-10-25**]  06:00 PM
                            [**2125-10-26**]  03:52 AM
   WBC
   25.3
   17.4
   15.7
   Hct
   26.7
   28.6
   31.3
   Plt
   436
   484
   573
   Cr
   0.6
   0.7
   0.7
   0.6
   0.6
   TCO2
   24
   26
   28
   34
   Glucose
   194
   136
   111
   172
   187
   183
   Other labs: PT / PTT / INR:15.7/24.1/1.4, CK / CKMB /
   Troponin-T:85//0.04, ALT / AST:18/15, Alk Phos / T Bili:80/0.2, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:514 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   41 F with history of asthma (no controller meds) admit to MICU with
   respiratory distress and failure requiring intubation with severe
   pneumonia on CXR and high O2 requirements on vent; now improving
   significantly.
   # Acute pneumoniaNow clinically improving with requirement for less
   vent and oxygenation support and dramatic improvement in chest Xray.
   Consistent with noninfectious cause, also high eosinophil presence on
   BAL fluid suggest ?AEP.  No peripheral eosinophilia.  Does have upper
   lobe predominance on CT.
   - Continue solumedrol 125 Q6 hours today.
   - checking IgE (can be suggestive of AEP), ANCA (? vasculitis)
   - follow final BAL cultures.
   - continue coverage with levoflox + cephalosporin; d/c vancomycin.
   .
   # Respiratory failure.  Requiring intubation for pneumonia/pneumonitis
   as above.  Initially requiring 80-100% FiO2 and PEEP [**7-24**]; now
   significantly improved and comfortable of [**4-16**] with 0.40 fiO2.  Diuresed
   overnight.  Weaning sedation to hopefully allow extubation today.
   - Extubate today if can wean off sedation and secretions manageable.
   SBT.  Give haldol 5 mg x 1 to decrease agitation, may need some
   continued benzos given high EtOH use.
   - Negative 1.8 liters overnight
 should not need further diuresis.
   .
   # Depression.  continue home prozac dose
   # Concern for EtOH abuse.  Per family.  Chronic pancreatitis per
   imaging.  Last drink thought to be [**10-20**] or [**10-21**].
   - Monitor for withdrawal once extubated and off versed.  Benzos prn.
   # Renal cyst.  Will need followup renal ultrasound to evaluate.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-10-22**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-10-27 07:40:00 Physician Attending Progress Note
Chief Complaint: Hypoxic resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   HPI: 41 F with history of asthma, recently initiated treatment for
   atypical pneumonia, now represents to ED for severe pneumonia and
   respiratory failure requiring intubation.  Patient seen on [**10-19**] for R
   sided chest pain, shortness of breath and cough.  Discharged from ED on
   azithromycin after CXR showing atypical pneumonia. Normal O2 per ED
   notes from that visit.  Did not improve at home and represented to ED
   yesterday evening.  Per EMS report, O2 sat 65% upon their arrival.
   In the ED, vitals T97.4 P92 BP120/72, 95% NRB.  No episodes of
   hypotension (SBP>120 during course) but tachy to 110s-120s.  5 L NS
   given, also vanc, levoflox, cefepime, bactrim.  Tachypneic to 40-50s;
   intubated (succ/etomidate) with #7.5. TV 400 x26, PEEP 8 70% FiO2 prior
   to arrival to floor.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2125-10-26**] 03:36 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-25**] 08:00 AM
   Ceftriaxone - [**2125-10-26**] 08:15 AM
   Levofloxacin - [**2125-10-26**] 09:36 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2125-10-26**] 11:00 AM
   Haloperidol (Haldol) - [**2125-10-26**] 12:30 PM
   Furosemide (Lasix) - [**2125-10-26**] 03:30 PM
   Famotidine (Pepcid) - [**2125-10-26**] 08:28 PM
   Heparin Sodium (Prophylaxis) - [**2125-10-26**] 11:49 PM
   Pantoprazole (Protonix) - [**2125-10-27**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   PMH:
   asthma
   ?cutting behavior/depreesion (seen on exam).
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-27**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 61 (53 - 101) bpm
   BP: 167/86(105) {119/61(75) - 181/93(113)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 10 (8 - 20)mmHg
   Total In:
                                                                    565 mL
                                                                     86 mL
   PO:
   TF:
   IVF:
                                                                    445 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  3,345 mL
                                                                    490 mL
   Urine:
                                                                  3,345 mL
                                                                    470 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,780 mL
                                                                   -404 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 624 (507 - 624) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 36%
   PIP: 10 cmH2O
   SpO2: 95%
   ABG: 7.50/50/117/38/13
   Ve: 8.2 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Clear : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   574 K/uL
   168 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.8 mEq/L
   37 mg/dL
   103 mEq/L
   145 mEq/L
   31.1 %
   15.8 K/uL
        [image002.jpg]
                            [**2125-10-25**]  04:44 AM
                            [**2125-10-25**]  04:54 AM
                            [**2125-10-25**]  03:29 PM
                            [**2125-10-25**]  06:00 PM
                            [**2125-10-26**]  03:52 AM
                            [**2125-10-26**]  11:50 AM
                            [**2125-10-26**]  03:17 PM
                            [**2125-10-26**]  04:21 PM
                            [**2125-10-27**]  12:16 AM
                            [**2125-10-27**]  04:16 AM
   WBC
   17.4
   15.7
   15.8
   Hct
   28.6
   31.3
   32.2
   31.1
   Plt
   [**Telephone/Fax (3) 2188**]
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   TCO2
   34
   40
   40
   Glucose
   111
   172
   187
   183
   163
   168
   Other labs: PT / PTT / INR:15.7/24.1/1.4, CK / CKMB /
   Troponin-T:95//0.04, ALT / AST:18/15, Alk Phos / T Bili:80/0.2, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.2 g/dL, LDH:514 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   41 yo with hx of asthma (by report) who was recently treated for PNA
   with abx and returned to the ED several days later with hypoxemic
   respiratory failure  which based on BAL eosinophilia and rpaid
   radiographic improvement is compatible at least in part with acute
   eosinophilic  PNA with possible superinfection.
   > Hypoxemic resp failure: Her presentation is concerning for an
   infectious source. we do not know her HIV status (although her CD4
   count is 900). Notably, her plateau pressures are not consistent with
   ARDS, there is no evidence of bleeding which would go for DAH, the cell
   count now has a  neutrophil predominance, but initially she had 12%
   eosinophilia which has subsequently decreased to 1% on repeat. BAL has
   been neg on gram stain and clx as have been blood clx, a viral process
   is possible (the Ag was cancelled) and urine legionella was neg. This
   may be consistent with acute eosinophilic PNA process, there does not
   appear to be an infectious component (BAL neg and PCP neg, viral
   studies neg) and her WBC conts to rise in the setting of broad spectrum
   coverage. The Chest CT from [**10-24**] shows a dramatic GGO and
   consolidation pattern in the upper lobes predominantly which could be
   consistent with AEP,PAP and possibly some volume overload (increased
   BNP on admission), over the last 24 hrs her WHC has improved and she
   has been Afebrile on high dose steroids (125 mg solumedrol q 6h since
   [**10-24**]) and we are going to wean steroids further [**10-26**] as well as abx
   regiment
   -  D/c ceftriaxone today, cont levaquin (and plan stop tomorrow)
   - Cont PS ventilation: SBT today.
   - Decrease to methylprednisolone 60 mg IV q 6h [**10-26**]
   - Let her set I/O
   - Check IgE (add on to admit): pending.
   - Goal net negative today (500 cc) she seems to be concentrated by labs
   - Hopeful for extubation today.
   >ETOH withdrawl / altered mental: she is less responsive this morning
   then previously although there is no focality to her exam. We will hold
   all sedating medications, would check head CT to r/o any interval
   change, there is no clear metabolic precipitant and we can check a ABG
   to rule out CO2 retention. Sub-clinincal status is also on the
   differential in the setting of her EtOH withdrawl and we can also check
   B12, TSH, RPR.
   - Will trial Haldol prior to extubation. Obtain ECG to check Qt
   - Hopeful for improved for mental status
    Coagulopathy: elevated INR, probably related in some part to cirrhosis
   and nutritional deficiency. We will trial three days of Vitamin K.
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-10-22**] 02:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2125-10-27 07:51:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2125-10-26**] 03:36 PM
   CT head (-) for bleed or focal pathology -"no change since [**6-17**]"
   TSH/B12/RPR added-on for mental status changes
   Steroids tapered to 60mg q6
   Stopped ceftriaxone, continued levofloxacin
   Extubation - 4pm - received 0.2mg x2 flumazenil for somnolence post
   extubation
   Lasix 20mg iv x1
   NGT placed, lactulose started
   Showed progressive neurological improvement through evening, but
   continued difficulty following commands
   ~1215 am - ~50cc coffee ground emeis post dry heaving.  NG lavage
   performed with ~250cc water, ~150 returned with no e/o of blood.  Stat
   hct stable at 32 and 31.  Stopped famotidine, started iv protonix,
   cross matched 2uPRBCs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-25**] 08:00 AM
   Ceftriaxone - [**2125-10-26**] 08:15 AM
   Levofloxacin - [**2125-10-26**] 09:36 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2125-10-26**] 11:00 AM
   Haloperidol (Haldol) - [**2125-10-26**] 12:30 PM
   Furosemide (Lasix) - [**2125-10-26**] 03:30 PM
   Famotidine (Pepcid) - [**2125-10-26**] 08:28 PM
   Heparin Sodium (Prophylaxis) - [**2125-10-26**] 11:49 PM
   Pantoprazole (Protonix) - [**2125-10-27**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Talked with daughter this AM.  Social history: drinking [**12-13**] pints vodka
   daily (depending on financial situation at the time).  Smokes 1 to 1.5
   PPD.  No known history of IVDU.  No known history of liver disease.
   Has had long history of EtOH abuse with withdrawals in the past.  Also
   has history of
brain damage
 reports that patient went into coma
   about 10-12 years ago, unclear reason ?drug use.  Reports told that she
   had anoxic injury.  Lives at home and takes care of self on own, able
   to ambulate safely without assistance, speech/language reportedly
   normal at baseline, though overall not quite as
with it
 as before her
   coma.  Daughter also reports history of
nerve damage
 to hands/feet
   thought due to alcohol.  Complains of being unable to feel hands and
   write well due to numbness at baseline.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-27**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 61 (53 - 101) bpm
   BP: 167/86(105) {119/61(75) - 181/93(113)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 10 (8 - 20)mmHg
   Total In:
                                                                    565 mL
                                                                     88 mL
   PO:
   TF:
   IVF:
                                                                    445 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                  3,345 mL
                                                                    490 mL
   Urine:
                                                                  3,345 mL
                                                                    470 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,780 mL
                                                                   -402 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 624 (507 - 624) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 36%
   PIP: 10 cmH2O
   SpO2: 95%
   ABG: 7.50/50/117/38/13
   Ve: 8.2 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese.  In chair.  Lethargic but arousable.  States name with some
   slurring.
   Eyes / Conjunctiva: PERRL, resists eye opening. Anicteric sclerae.
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal) no murmurs
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous but significantly improved, much more clear.
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Trace edema
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands (hands and feet), Can
   state name, not oriented to place or date.  Moves all extremities
   spontaneously, but no/little response to painful stimuli of
   fingers/hands.  Does respond to pain in move proximal upper and lower
   extremities.
   No neck or back TTP.
   Labs / Radiology
   574 K/uL
   10.6 g/dL
   168 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.8 mEq/L
   37 mg/dL
   103 mEq/L
   145 mEq/L
   31.1 %
   15.8 K/uL
        [image002.jpg]
                            [**2125-10-25**]  04:44 AM
                            [**2125-10-25**]  04:54 AM
                            [**2125-10-25**]  03:29 PM
                            [**2125-10-25**]  06:00 PM
                            [**2125-10-26**]  03:52 AM
                            [**2125-10-26**]  11:50 AM
                            [**2125-10-26**]  03:17 PM
                            [**2125-10-26**]  04:21 PM
                            [**2125-10-27**]  12:16 AM
                            [**2125-10-27**]  04:16 AM
   WBC
   17.4
   15.7
   15.8
   Hct
   28.6
   31.3
   32.2
   31.1
   Plt
   [**Telephone/Fax (3) 2188**]
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   TCO2
   34
   40
   40
   Glucose
   111
   172
   187
   183
   163
   168
   Other labs: PT / PTT / INR:15.7/24.1/1.4, CK / CKMB /
   Troponin-T:95//0.04, ALT / AST:18/15, Alk Phos / T Bili:80/0.2, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.2 g/dL, LDH:514 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   41 F with history of asthma, EtOH abuse, psych history; admit to MICU
   with respiratory failure requiring intubation with severe pneumonia on
   CXR and high O2 requirements on vent; now improving significantly.
   # Acute pneumonia and respiratory failure.
 clinically improving, now
   extubated successfully.  Picture C/w noninfectious cause, +eos in BAL
   and elevated serum IgE, ?AEP.   ANCA and infection workup negative.
   - continue solumedrol 60 Q6hrs for one more day (changed [**10-26**])
   tomorrow can decrease to 60 Q8 or 12.
   - start bactrim given anticipated prolonged steroid course.
   - cont levoflox to complete tentative 10d course [**10-31**].
   - goal even today (has been significantly negative with metabolic
   alkalosis; will let be even or autodiurese some on own today).
   # mental status changes
 per daughter, has history of anoxic brain
   injury as well as peripheral neuropathy duie to alcohol, though not yet
   at baseline (lives/functions at home alone).  Given this history,
   picture consistent with global deleriumt (med effect,  infections,
   steroids etc).  CT without contrast negative for bleed.  B12, folate,
   TSH negative.  More concerning was lack of withdrawal to pain on exam
   yesterday/today, though this likely due to baseline peripheral
   neuropathy per daughter.
   - f/u RPR
   - check ammonia
   - continue to monitor exam
   - hold benzos, though monitor for withdrawal.
   - consider further imaging or neuro consult if not improving.
   # Coffee ground emesis.  One episode overnight after dry heaving;
   likely [**Doctor First Name 331**] [**Doctor Last Name **] vs. past OGT trauma vs. more worrisome causes
   (gastritis, esophagitis, PUD).  Seems to be self limited with
   subsequent stable Hct.
   -          recheck hct this afternoon.
   -          [**Hospital1 **] ppi
   -          Recheck coags; getting vitamin K for mildly increased INR
   -          If no further episodes and hct stable, would hold off on GI
   consult/scope
   # depression - cont home prozac dose
   # ethanol abuse - per family, chronic pancreatitis per imaging.  Last
   drink thought to be [**10-20**] or [**10-21**].
   - Monitor for withdrawal.
   # Renal cyst.  Will need followup renal ultrasound to evaluate.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2125-10-22**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2125-10-28 07:23:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2125-10-27**] 09:19 PM
 URINE CULTURE - At [**2125-10-27**] 09:19 PM
 SPUTUM CULTURE - At [**2125-10-27**] 09:46 PM
 FEVER - 101.1
F - [**2125-10-27**] 09:17 PM
   - Desat to 80s yesterday afternoon while more somnolent compared to the
   morning, ABG 7.49/48/77.  Improved with suctioning and stimulation.
   - Ammonia 30.
   - Hct stable at 32 in the afternoon.
   - Prophylactic bactrim started.
   - No further diuresis.
   - Spiked to 101.1, cultured.
   Much more awake/alert today.  Complains only of generalized weakness.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-25**] 08:00 AM
   Ceftriaxone - [**2125-10-26**] 08:15 AM
   Levofloxacin - [**2125-10-27**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-10-27**] 07:47 PM
   Heparin Sodium (Prophylaxis) - [**2125-10-28**] 12:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-28**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.2
C (100.8
   HR: 63 (59 - 114) bpm
   BP: 146/77(93) {126/67(84) - 177/100(118)} mmHg
   RR: 18 (13 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 15 (9 - 15)mmHg
   Total In:
                                                                    611 mL
                                                                    133 mL
   PO:
   TF:
                                                                     21 mL
   IVF:
                                                                    360 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,135 mL
                                                                    530 mL
   Urine:
                                                                  2,115 mL
                                                                    530 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,525 mL
                                                                   -397 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 99%
   ABG: 7.49/48/77/32/11
   PaO2 / FiO2: 128
   Physical Examination
   Sitting up OOB in chair, NAD.  NGT in place.  Alert, oriented to [**Hospital 2223**] and [**2124**], not otherwise to date.  Speech somewhat slowed but
   significantly more fluent and appropriate than yesterday.
   NC/AT.  MM slightly dry.
   Lungs diffusely rhoncherous but good air entry.
   Heart regular, no murmur appreciated
   Abdomen: soft NT/ND.
   Minimal edema.
   Labs / Radiology
   594 K/uL
   11.3 g/dL
   145 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.1 mEq/L
   28 mg/dL
   99 mEq/L
   140 mEq/L
   32.9 %
   16.5 K/uL
        [image002.jpg]
                            [**2125-10-25**]  06:00 PM
                            [**2125-10-26**]  03:52 AM
                            [**2125-10-26**]  11:50 AM
                            [**2125-10-26**]  03:17 PM
                            [**2125-10-26**]  04:21 PM
                            [**2125-10-27**]  12:16 AM
                            [**2125-10-27**]  04:16 AM
                            [**2125-10-27**]  01:53 PM
                            [**2125-10-27**]  03:10 PM
                            [**2125-10-28**]  03:00 AM
   WBC
   15.7
   15.8
   16.5
   Hct
   31.3
   32.2
   31.1
   32.2
   32.9
   Plt
   [**Telephone/Fax (3) 2217**]
   Cr
   0.6
   0.6
   0.7
   0.7
   TCO2
   40
   40
   38
   Glucose
   187
   183
   163
   168
   145
   Other labs: PT / PTT / INR:15.0/25.6/1.3, CK / CKMB /
   Troponin-T:95//0.04, ALT / AST:18/17, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:456 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   41 F with history of asthma, EtOH abuse, psych history; admit to MICU
   with respiratory failure requiring intubation with severe pneumonia on
   CXR and high O2 requirements on vent; now improving significantly.
   # Acute pneumonia and respiratory failure.
 clinically improving,
   though still requiring O2 with intermittent desaturations.  Picture C/w
   noninfectious cause, +eos in BAL and elevated serum IgE suggest AEP.
   ANCA and infection workup negative.
   - decrease solumedrol 60 Q8hrs for today.
   - started bactrim given anticipated prolonged steroid course.
   - d/c levofloxacin today
   - goal even today (has been significantly negative with metabolic
   alkalosis; will let be even or autodiurese more on own today).
   - IS and pulmonary toilet as tolerated.
   # mental status changes
 per daughter, has history of anoxic brain
   injury as well as peripheral neuropathy due to alcohol.
   Lives/functions at home alone.  Current picture consistent with global
   delerium (med effect,  infections, steroids etc).  Improving overnight
   and today.
   - f/u RPR
   - continue to monitor exam
   - hold benzos, though monitor for withdrawal.
   # Fever.  To [**Age over 90 2224**] yesterday.  No e/o infiltrate on CXR.  UA with few
   WBCs, will follow culture.  Could also be atelectasis given positioning
   and lethargy at times.  Also consider other infectious sources (biliary
   disease, c.diff) or other sources of fever (pancreatitis, VTE).
   -          follow urine and blood cultures.  Hold off on further abx
   for now.
   # Coffee ground emesis.  One episode 2 nights ago after dry heaving;
   likely [**Doctor First Name 331**] [**Doctor Last Name **] vs. past OGT trauma. Seems to have been self
   limited with subsequent stable Hct.
   -          Change back to H2 blocker
   -          If no further episodes and hct stable, would hold off on GI
   consult/scope
   # depression - cont home prozac dose
   # ethanol abuse - per family, chronic pancreatitis per imaging.  Last
   drink thought to be [**10-20**] or [**10-21**].
   - Monitor for withdrawal.
   # Renal cyst.  Will need followup renal ultrasound to evaluate.
   ICU Care
   Nutrition:
   Comments: Starting with nectar/softs, advance as tolerated, consider
   formal speech and swallow in AM
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2125-10-22**] 02:00 PM
 will d/c and place peripherals.
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for today, hope to go to floor tomorrow.

2125-10-28 07:54:00 Physician Attending Progress Note
Chief Complaint: Resp failure
 asthma and ? AEP
   HPI:
    Patient seen and examined with ICU residents. Plan discussed.
   24 Hour Events:
 BLOOD CULTURED - At [**2125-10-27**] 09:19 PM
 URINE CULTURE - At [**2125-10-27**] 09:19 PM
 SPUTUM CULTURE - At [**2125-10-27**] 09:46 PM
 FEVER - 101.1
F - [**2125-10-27**] 09:17 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-10-25**] 08:00 AM
   Ceftriaxone - [**2125-10-26**] 08:15 AM
   Levofloxacin - [**2125-10-27**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-10-28**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-28**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-28**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.2
C (100.8
   HR: 84 (59 - 114) bpm
   BP: 148/81(97) {126/67(84) - 177/100(118)} mmHg
   RR: 25 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 15 (9 - 15)mmHg
   Total In:
                                                                    611 mL
                                                                    149 mL
   PO:
   TF:
                                                                     21 mL
   IVF:
                                                                    360 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  2,135 mL
                                                                    600 mL
   Urine:
                                                                  2,115 mL
                                                                    600 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,525 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 100%
   ABG: 7.49/48/77/32/11
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance:
   Eyes / Conjunctiva:
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Coarse b/l breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No c/c/e
   Skin:  Not assessed
   Neurologic: Attentive, Delayed response to verbal stimuli. Follows
   simple commands. Oriented to place and year.
   Labs / Radiology
   11.3 g/dL
   594 K/uL
   145 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.1 mEq/L
   28 mg/dL
   99 mEq/L
   140 mEq/L
   32.9 %
   16.5 K/uL
        [image002.jpg]
                            [**2125-10-25**]  06:00 PM
                            [**2125-10-26**]  03:52 AM
                            [**2125-10-26**]  11:50 AM
                            [**2125-10-26**]  03:17 PM
                            [**2125-10-26**]  04:21 PM
                            [**2125-10-27**]  12:16 AM
                            [**2125-10-27**]  04:16 AM
                            [**2125-10-27**]  01:53 PM
                            [**2125-10-27**]  03:10 PM
                            [**2125-10-28**]  03:00 AM
   WBC
   15.7
   15.8
   16.5
   Hct
   31.3
   32.2
   31.1
   32.2
   32.9
   Plt
   [**Telephone/Fax (3) 2217**]
   Cr
   0.6
   0.6
   0.7
   0.7
   TCO2
   40
   40
   38
   Glucose
   187
   183
   163
   168
   145
   Other labs: PT / PTT / INR:15.0/25.6/1.3, CK / CKMB /
   Troponin-T:95//0.04, ALT / AST:18/17, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:456 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   MICRO: BCx, UCx pending. Rapid viral cx neg. Sp Cx
 bad qual.
   Assessment and Plan
   41 yo with hx of asthma (by report) who was recently treated for PNA
   with abx and returned to the ED several days later with hypoxemic
   respiratory failure  which based on BAL eosinophilia and rapid
   radiographic improvement is compatible at least in part with acute
   eosinophilic  PNA with possible superinfection.
   > Hypoxemic resp failure likely d/t AEP: s/p extubation, tolerated
   well. Her presentation is concerning for acute eosinophilic PNA, +/-
   infectious source . All Cx are neg to date. She improved dramatically
   with steroids. Currently, still has some O2 requirment, likely [**1-13**]
   atelectasis, but as her mental status is continuing to improve and she
   is able to cough, take deep breaths and get OOB to chair, her O2
   requirement has been coming down.
   -Continue steroid taper: goal to get down to 60 of prednisone
   -Bactrim for PCP [**Name9 (PRE) **]
   [**Name9 (PRE) 2222**] [**Name Initial (PRE) **] 5 days for atypical PNA (?)  - finished today
   -Supplemental O2 as needed
   -OOB/chair
   > Fever: no clear source of infection. CXR without new infiltrates. All
   Cx pending. Atelectasis, DVT (has been on ppx), etc are on the DDx.
   -f/u Cx, no abx for now
    > Neuro: H/o brain injury and peripheral neuropathy. Neurologic exam
   and mental status have improved dramatically since yesterday.
   -Will continue to monitor, PT
   [**Name (NI) 19**] issues per ICU resident note.
   ICU Care
   Nutrition: PO
s (soft diet) to start today
   Glycemic control: RISS
   Lines: umen - [**2125-10-22**] 02:00 PM
 D/C today
   NGT
 out today
   Prophylaxis: , DVT: SQH, Stress ulcer: PPI
   Code status: Full code
   Disposition : ICU, total time spent: 32 min,

2125-10-29 07:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2125-10-28**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-10-26**] 08:15 AM
   Levofloxacin - [**2125-10-27**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-10-28**] 07:45 AM
   Famotidine (Pepcid) - [**2125-10-28**] 07:23 PM
   Heparin Sodium (Prophylaxis) - [**2125-10-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-29**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 55 (51 - 92) bpm
   BP: 141/71(89) {114/59(73) - 156/84(101)} mmHg
   RR: 17 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,670 mL
                                                                    240 mL
   PO:
                                                                  1,320 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    170 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    300 mL
   Urine:
                                                                  1,045 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    225 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered but much
   improved.)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal. A+O x 3
   Labs / Radiology
   11.4 g/dL
   566 K/uL
   160 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.4 mEq/L
   24 mg/dL
   99 mEq/L
   134 mEq/L
   33.2 %
   17.5 K/uL
        [image002.jpg]
                            [**2125-10-26**]  03:52 AM
                            [**2125-10-26**]  11:50 AM
                            [**2125-10-26**]  03:17 PM
                            [**2125-10-26**]  04:21 PM
                            [**2125-10-27**]  12:16 AM
                            [**2125-10-27**]  04:16 AM
                            [**2125-10-27**]  01:53 PM
                            [**2125-10-27**]  03:10 PM
                            [**2125-10-28**]  03:00 AM
                            [**2125-10-29**]  03:12 AM
   WBC
   15.7
   15.8
   16.5
   17.5
   Hct
   31.3
   32.2
   31.1
   32.2
   32.9
   33.2
   Plt
   [**Telephone/Fax (3) 2248**]66
   Cr
   0.6
   0.6
   0.7
   0.7
   0.6
   TCO2
   40
   40
   38
   Glucose
   183
   163
   168
   145
   160
   Other labs: PT / PTT / INR:15.0/25.6/1.3, CK / CKMB /
   Troponin-T:95//0.04, ALT / AST:18/17, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:456 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   CXR [**10-29**]: improved aeration, resolving left lower lobe atelectasis
   Assessment and Plan
   41 yo with hx of asthma (by report) who was recently treated for PNA
   with abx and returned to the ED several days later with hypoxemic
   respiratory failure  which based on BAL eosinophilia and rapid
   radiographic improvement is compatible at least in part with acute
   eosinophilic  PNA with possible superinfection.
    > Hypoxemic resp failure likely d/t AEP: s/p extubation, tolerated
   well. Her presentation is concerning for acute eosinophilic PNA, +/-
   infectious source . All Cx are neg to date. She improved dramatically
   with steroids. Currently, still has some O2 requirment, likely [**1-13**]
   atelectasis, but as her mental status is continuing to improve and she
   is able to cough, take deep breaths and get OOB to chair, her O2
   requirement has been coming down.
   -Change to Solumedrol 60 mg IV q12hr with change to PO prednisone
   tomorrow.
   -Bactrim for PCP [**Name9 (PRE) **]
   [**Name9 (PRE) 2254**] O2 as needed
   -OOB/chair
   - Pulm consult to follow on the floor ([**First Name4 (NamePattern1) 2255**] [**Last Name (NamePattern1) 2256**]
 Pulmonary Consult
   Fellow)
   - Goal even today .
   > Fever: no clear source of infection. CXR without new infiltrates. All
   Cx pending. Atelectasis, DVT (has been on ppx), etc are on the DDx.
   She has been afebrile since [**10-27**].
   - f/u Cx, no abx for now
   > Neuro: H/o brain injury and peripheral neuropathy. Neurologic exam
   and mental status have improved to the point where she is at her
   baseline
   -Will continue to monitor, PT
   [**Name (NI) 19**] issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-10-28**] 11:08 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2125-10-29 08:02:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
 MULTI LUMEN - STOP [**2125-10-28**] 04:00 PM
   - Steroids tapered to 60 q 8 hours
   - Levaquin stopped (was on high dose for > 5 days)
   - diet advanced
   - Lactulose d/c'd as mental status had significantly improved
   - Improved mental status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-10-26**] 08:15 AM
   Levofloxacin - [**2125-10-27**] 10:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-10-29**] 07:46 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-29**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-29**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 63 (51 - 92) bpm
   BP: 127/70(84) {114/59(73) - 156/84(101)} mmHg
   RR: 17 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,670 mL
                                                                    480 mL
   PO:
                                                                  1,320 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    170 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    300 mL
   Urine:
                                                                  1,045 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    225 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   566 K/uL
   11.4 g/dL
   160 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.4 mEq/L
   24 mg/dL
   99 mEq/L
   134 mEq/L
   33.2 %
   17.5 K/uL
        [image002.jpg]
                            [**2125-10-26**]  03:52 AM
                            [**2125-10-26**]  11:50 AM
                            [**2125-10-26**]  03:17 PM
                            [**2125-10-26**]  04:21 PM
                            [**2125-10-27**]  12:16 AM
                            [**2125-10-27**]  04:16 AM
                            [**2125-10-27**]  01:53 PM
                            [**2125-10-27**]  03:10 PM
                            [**2125-10-28**]  03:00 AM
                            [**2125-10-29**]  03:12 AM
   WBC
   15.7
   15.8
   16.5
   17.5
   Hct
   31.3
   32.2
   31.1
   32.2
   32.9
   33.2
   Plt
   [**Telephone/Fax (3) 2248**]66
   Cr
   0.6
   0.6
   0.7
   0.7
   0.6
   TCO2
   40
   40
   38
   Glucose
   183
   163
   168
   145
   160
   Other labs: PT / PTT / INR:15.0/25.6/1.3, CK / CKMB /
   Troponin-T:95//0.04, ALT / AST:18/17, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:456 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   41 F with history of asthma, EtOH abuse, psych history; admit to MICU
   with respiratory failure requiring intubation with severe pneumonia on
   CXR and high O2 requirements on vent; now improving significantly.
   # Acute pneumonia and respiratory failure.
 clinically improving,
   though still requiring O2 with intermittent desaturations.  Picture C/w
   noninfectious cause, +eos in BAL and elevated serum IgE suggest AEP.
   ANCA and infection workup negative.
   - decrease solumedrol 60 Q8hrs for today.
   - started bactrim given anticipated prolonged steroid course.
   - d/c levofloxacin today
   - goal even today (has been significantly negative with metabolic
   alkalosis; will let be even or autodiurese more on own today).
   - IS and pulmonary toilet as tolerated.
   # mental status changes
 per daughter, has history of anoxic brain
   injury as well as peripheral neuropathy due to alcohol.
   Lives/functions at home alone.  Current picture consistent with global
   delerium (med effect,  infections, steroids etc).  Improving overnight
   and today.
   - f/u RPR
   - continue to monitor exam
   - hold benzos, though monitor for withdrawal.
   # Fever.  To [**Age over 90 2224**] yesterday.  No e/o infiltrate on CXR.  UA with few
   WBCs, will follow culture.  Could also be atelectasis given positioning
   and lethargy at times.  Also consider other infectious sources (biliary
   disease, c.diff) or other sources of fever (pancreatitis, VTE).
   -          follow urine and blood cultures.  Hold off on further abx
   for now.
   # Coffee ground emesis.  One episode 2 nights ago after dry heaving;
   likely [**Doctor First Name 331**] [**Doctor Last Name **] vs. past OGT trauma. Seems to have been self
   limited with subsequent stable Hct.
   -          Change back to H2 blocker
   -          If no further episodes and hct stable, would hold off on GI
   consult/scope
   # depression - cont home prozac dose
   # ethanol abuse - per family, chronic pancreatitis per imaging.  Last
   drink thought to be [**10-20**] or [**10-21**].
   - Monitor for withdrawal.
   # Renal cyst.  Will need followup renal ultrasound to evaluate.
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-10-28**] 11:08 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2125-10-30 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2125-10-27**] 10:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-10-29**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-10-29**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-30**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 63 (50 - 77) bpm
   BP: 126/93(102) {111/51(78) - 157/97(107)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,420 mL
                  PO:
                                                                  1,420 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    700 mL
                                                                    300 mL
   Urine:
                                                                    700 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    720 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Crackles : scattered )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   12.7 g/dL
   559 K/uL
   179 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.7 mEq/L
   20 mg/dL
   100 mEq/L
   136 mEq/L
   37.5 %
   19.5 K/uL
        [image002.jpg]
                            [**2125-10-26**]  11:50 AM
                            [**2125-10-26**]  03:17 PM
                            [**2125-10-26**]  04:21 PM
                            [**2125-10-27**]  12:16 AM
                            [**2125-10-27**]  04:16 AM
                            [**2125-10-27**]  01:53 PM
                            [**2125-10-27**]  03:10 PM
                            [**2125-10-28**]  03:00 AM
                            [**2125-10-29**]  03:12 AM
                            [**2125-10-30**]  05:43 AM
   WBC
   15.8
   16.5
   17.5
   19.5
   Hct
   32.2
   31.1
   32.2
   32.9
   33.2
   37.5
   Plt
   [**Telephone/Fax (3) 2268**]59
   Cr
   0.6
   0.7
   0.7
   0.6
   0.7
   TCO2
   40
   40
   38
   Glucose
   163
   168
   145
   160
   179
   Other labs: PT / PTT / INR:15.0/25.6/1.3, CK / CKMB /
   Troponin-T:95//0.04, ALT / AST:18/17, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:456 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   41 yo with hx of asthma (by report) who was recently treated for PNA
   with abx and returned to the ED several days later with hypoxemic
   respiratory failure  which based on BAL eosinophilia and rapid
   radiographic improvement is compatible at least in part with acute
   eosinophilic  PNA with possible superinfection.
   > Hypoxemic resp failure likely d/t AEP: s/p extubation, tolerated
   well. Her presentation is concerning for acute eosinophilic PNA, +/-
   infectious source . All Cx are neg to date. She improved dramatically
   with steroids. Currently, still has some O2 requirment, likely [**1-13**]
   atelectasis, but as her mental status is continuing to improve and she
   is able to cough, take deep breaths and get OOB to chair, her O2
   requirement has been coming down to the point of room air.
   -Change to Solumedrol 60 mg IV q12hr with change to PO prednisone
   tomorrow.
   -Bactrim for PCP [**Name9 (PRE) **]
   [**Name9 (PRE) 2254**] O2 as needed
   -OOB/chair
   - Pulm consult to follow on the floor ([**First Name4 (NamePattern1) 2255**] [**Last Name (NamePattern1) 2256**]
 Pulmonary Consult
   Fellow)
   - Goal even today .
   > Fever: no clear source of infection. CXR without new infiltrates. All
   Cx pending. Atelectasis, DVT (has been on ppx), etc are on the DDx.
   She has been afebrile since [**10-27**].
   - f/u Cx, no abx for now
   > Neuro: H/o brain injury and peripheral neuropathy. Neurologic exam
   and mental status have improved to the point where she is at her
   baseline
   -Will continue to monitor, PT
   [**Name (NI) 19**] issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-10-28**] 11:08 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2125-10-30 07:47:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
   Decreased steroids
   Went for walk, tolerating PO feeds, mental status improved
   Drank 2 large [**Last Name (un) 2269**] donut coffees
   Called out to floor - no bed available
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2125-10-27**] 10:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-10-29**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-10-29**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-30**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 63 (50 - 77) bpm
   BP: 126/93(102) {111/51(78) - 157/97(107)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,420 mL
                  PO:
                                                                  1,420 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    700 mL
                                                                    300 mL
   Urine:
                                                                    700 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    720 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   559 K/uL
   12.7 g/dL
   179 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.7 mEq/L
   20 mg/dL
   100 mEq/L
   136 mEq/L
   37.5 %
   19.5 K/uL
        [image002.jpg]
                            [**2125-10-26**]  11:50 AM
                            [**2125-10-26**]  03:17 PM
                            [**2125-10-26**]  04:21 PM
                            [**2125-10-27**]  12:16 AM
                            [**2125-10-27**]  04:16 AM
                            [**2125-10-27**]  01:53 PM
                            [**2125-10-27**]  03:10 PM
                            [**2125-10-28**]  03:00 AM
                            [**2125-10-29**]  03:12 AM
                            [**2125-10-30**]  05:43 AM
   WBC
   15.8
   16.5
   17.5
   19.5
   Hct
   32.2
   31.1
   32.2
   32.9
   33.2
   37.5
   Plt
   [**Telephone/Fax (3) 2268**]59
   Cr
   0.6
   0.7
   0.7
   0.6
   0.7
   TCO2
   40
   40
   38
   Glucose
   163
   168
   145
   160
   179
   Other labs: PT / PTT / INR:15.0/25.6/1.3, CK / CKMB /
   Troponin-T:95//0.04, ALT / AST:18/17, Alk Phos / T Bili:72/0.5, Amylase
   / Lipase:/9, Differential-Neuts:89.3 %, Lymph:6.0 %, Mono:4.6 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:456 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   41 F with history of asthma, EtOH abuse, psych history; admit to MICU
   with respiratory failure requiring intubation with severe pneumonia on
   CXR and high O2 requirements on vent; now improving significantly.
   Picture consistent with acute eosinophilic pneumonia.
   # Acute eosinophilic pneumonia and respiratory failure.
 clinically
   improving, though still requiring O2 now at 2L.  +eos in BAL and
   elevated serum IgE suggest AEP.   ANCA and infection workup negative.
    s/p 7 day course of levofloxacin in addition, though suspicion for CAP
   low.
   - decrease solumedrol 60 Q12hrs for today, then to PO prednisone 60
   starting tomorrow AM.
   - started bactrim given anticipated prolonged steroid course.
   - goal even today
   - IS and pulmonary toilet as tolerated.
   - wean O2 as tolerated.
   - Pulmonary consult to continue on floor after callout.
   - Smoking cessation
   # mental status changes
 per daughter, has history of anoxic brain
   injury as well as peripheral neuropathy due to alcohol.
   Lives/functions at home alone.  Delerium post extubation but now doing
   well and appears at baseline.
   - hold benzos.
   # Fever.  To 101 on [**10-27**].  No e/o infiltrate on CXR.  Urines and
   bloods negative.  Could be atelectasis given positioning and lethargy
   at that time.  Afebrile since.
   -          Followup fever curve.
   # Coffee ground emesis.  One episode on [**10-26**] after dry heaving; likely
   [**Doctor First Name 331**] [**Doctor Last Name **] vs. past OGT trauma. Seems to have been self limited with
   subsequent stable Hct.
   # depression - cont home prozac dose
   # ethanol abuse - per family, also chronic pancreatitis per imaging.
   Last drink thought to be [**10-20**] or [**10-21**].
   - SW consult on floor.
   # Renal cyst.  Will need followup renal ultrasound to evaluate.
   ICU Care
   Nutrition:
   Comments: regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-10-28**] 11:08 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor